US04432984
2-chloromethyl 7-amino 2,3-dihydro [4H] 1,4-benzodioxin
150 g of 2-chloromethyl 7-nitro 2,3-dihydro [4H] 1,4-benzodioxin are dissolved in 2600 ml ethanol. 15 g of palladium on coal are added and the whole mixture is hydrogenated at room temperature and atmospheric pressure.

reactant | 2-chloromethyl 7-nitro 2,3-dihydro [4H] 1,4-benzodioxin | 150 g | ClCC1COC2=C(O1)C=C(C=C2)[N+](=O)[O-] | C9H8ClNO4
solvent | ethanol | 2600 ml | C(C)O | C2H6O
catalyst | palladium | 15 g | [Pd] | Pd
product | 2-chloromethyl 7-amino 2,3-dihydro [4H] 1,4-benzodioxin | ClCC1COC2=C(O1)C=C(C=C2)N | C9H10ClNO2
